US08039500B2
2-(Mesitylmethyl)-1-methyl-1H-benzimidazol-7-amine
To a solution of mesityleneacetic acid (904 mg, 5.08 mmol) in tetrahydrofuran (20 mL) was added N,N′-carbonyldiimidazole (823 mg, 5.08 mmol) at room temperature. After the mixture was stirred for 1 hr at 50° C., N2-methylbenzene-1,2,3-triamine (700 mg, 5.08 mmol) in tetrahydrofuran (8 mL) was added to the mixture and the mixture was refluxed for further 18 hr. After the mixture was cooled, the solvent was evaporated in vacuo, and the residue was purified by silica gel column chromatography eluting with a 60-80% ethyl acetate/n-hexane gradient mixture to give the title compound (340 mg, 1.22 mmol, 24%) as a colorless solid. The resulting solid was recrystallized from n-hexane/tetrahydrofuran to give the title compound (254 mg, 0.85 mmol).

reactant | mesityleneacetic acid | 5.08 mmol, 904 mg | C1(=C(C(=CC(=C1)C)C)CC(=O)O)C | C11H14O2
reactant | N2-methylbenzene-1,2,3-triamine | 5.08 mmol, 700 mg | CNC1=C(C=CC=C1N)N | C7H11N3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 2-(Mesitylmethyl)-1-methyl-1H-benzimidazol-7-amine | 1.22 mmol, 340 mg, 24% | C1(=C(C(=CC(=C1)C)C)CC1=NC2=C(N1C)C(=CC=C2)N)C | C18H21N3
